US05455253
2-Methyl-4-(3-nitrophenyl)-4,6,7,8-tetrahydro-5(1H)-quinolone.
2-Methyl-4-(3-nitrophenyl)-5-oxo-1,4,5,6,7,8-hexahydro-3-quinolinecarboxylic acid. To a suspension of 2-cyanoethyl 2-methyl-4-(3-nitrophenyl)-5-oxo-1,4,5,6,7,8-hexahydro-3-quinolinecarboxylate (0.47 g) in ethylene glycol dimethyl ether (2 mL) was added 1N sodium hydroxide (4 mL). The mixture was stirred for 20 h, during which time all of the solid went into solution. The mixture was diluted with water, washed with ethyl acetate, and acidified by addition of concentrated hydrochloric acid. The resulting precipitate was collected by vacuum filtration and dried to give the acid as a yellow solid (0.31 g); mp 253°-255° C.; MS: 328 (M); NMR: 1.63-2.00 (m,2, CH2), 2.20 (m,2, CH2), 2.31 (s,3, CH3), 2.49 (m,2, CH2), 5.0 (s,1, CH), 7.49-7.61 (m,2, Ar), 7.97 (m,2, Ar), 9.24 (s, 1, NH). Analysis for C17H16N2O5 : Calculated: C, 62.19; H, 4.91; N, 8.53; Found: C, 62.16; H, 5.02; N, 8.33.

reactant | 2-Methyl-4-(3-nitrophenyl)-5-oxo-1,4,5,6,7,8-hexahydro-3-quinolinecarboxylic acid | CC=1NC=2CCCC(C2C(C1C(=O)O)C1=CC(=CC=C1)[N+](=O)[O-])=O | C17H16N2O5
reactant | 2-cyanoethyl 2-methyl-4-(3-nitrophenyl)-5-oxo-1,4,5,6,7,8-hexahydro-3-quinolinecarboxylate | 0.47 g | CC=1NC=2CCCC(C2C(C1C(=O)OCCC#N)C1=CC(=CC=C1)[N+](=O)[O-])=O | C20H19N3O5
reactant | sodium hydroxide | 1N, 4 mL | [OH-].[Na+]
solvent | ethylene glycol dimethyl ether | 2 mL | COCCOC | C4H10O2
solvent | water | O | H2O
product | 2-Methyl-4-(3-nitrophenyl)-4,6,7,8-tetrahydro-5(1H)-quinolone | 0.31 g | CC=1NC=2CCCC(C2C(C1)C1=CC(=CC=C1)[N+](=O)[O-])=O | C16H16N2O3
